US08809012B2
Step 5: Synthesis of tert-butyldimethyl((4-(prop-1-yn-1-yl)benzyl)oxy)-silane
Under argon condition, tert-butyl((4-ethynylbenzyl)oxy)dimethyl-silane (247 mg, 1.00 mmol) was dissolved in 5 mL of dry THF, cooled to −78° C., and n-butyl lithium (805 μL, 2.49 M solution in n-hexane, 2.00 mmol) was slowly added thereto. After stirring for 20 minutes at −78° C., iodomethane (313 μL, 5.00 mmol) was added again thereto. Thereafter, the temperature was raised to room temperature and the reaction mixture was stirred for 30 minutes at room temperature. Upon completion of the reaction, the reaction was terminated by adding 10 mL of aqueous saturated ammonium chloride solution. The reaction mixture was extracted with ethyl acetate (5 mL×4) and the organic layer thus obtained was treated with anhydrous magnesium sulfate to remove water. The precipitate was filtered out, and the resulting solution was concentrated by distillation under reduced pressure, and purified by column chromatography to obtain 253 mg (0.971 mmol, 97%) of the desired compound.

reactant | tert-butyl((4-ethynylbenzyl)oxy)dimethyl-silane | 1.00 mmol, 247 mg | C(C)(C)(C)[Si](C)(C)OCC1=CC=C(C=C1)C#C | C15H22OSi
reactant | n-butyl lithium | 2.00 mmol, 2.49 M, 805 μL | C(CCC)[Li]
reactant | iodomethane | 5.00 mmol, 313 μL | IC | CH3I
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | tert-butyldimethyl((4-(prop-1-yn-1-yl)benzyl)oxy)-silane | 0.971 mmol, 253 mg, 97% | C(C)(C)(C)[Si](OCC1=CC=C(C=C1)C#CC)(C)C | C16H24OSi
